US09399636B2
To a stirred solution of tert-butyl 4-(2-chloropyridin-4-yl)piperidine-1-carboxylate (24 g, 0.08 mol, 1 equiv) in ammonia (250 mL) was added copper(I) oxide (5 g, 0.03 mols, 0.4 equiv.) and stirred 10 h at 200° C. under 2.2 MPa of ammonia. The reaction was monitored by LC-MS to completion. The mixture was cooled, extracted with dichloromethane (5×250 mL), dried over Na2SO4, then concentrated to obtain compound 4-(piperidin-4-yl)pyridin-2-amine (8.5 g, 36%).

reactant | tert-butyl 4-(2-chloropyridin-4-yl)piperidine-1-carboxylate | 0.08 mol, 24 g, 1 equiv | ClC1=NC=CC(=C1)C1CCN(CC1)C(=O)OC(C)(C)C | C15H21ClN2O2
reactant | ammonia | 250 mL | N | H3N
catalyst | copper(I) oxide | 0.03 mols, 5 g, 0.4 equiv. | [Cu-]=O
product | 4-(piperidin-4-yl)pyridin-2-amine | 8.5 g, 36% | N1CCC(CC1)C1=CC(=NC=C1)N | C10H15N3
